US06169088A
To a suspension of 162.0 mg (0.36 mmol) of 4-(7-benzyloxy-6-methoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester obtained in Reference Example 8 (6) in 10 ml of ethanol was added a suspension of 100 mg of 10% palladium-carbon in 5 ml of water, followed by stirring in a stream of hydrogen at room temperature for 7.5 hours. After the catalyst was separated by filtration using Celite, the solvent was evaporated. The residue was dissolved in 5 ml of dichloromethane, and 5 ml of trifluoroacetic acid was added thereto under ice-cooling, followed by stirring at the same temperature for 2 hours. After the solvent was evaporated, the residue was subjected to azeotropic distillation with toluene twice, and the obtained residue was dissolved in 5 ml of dichloromethane. To the resulting solution were added 122.5 mg (1.80 mmol) of imidazole and 108.5 mg (0.72 mmol) of tert-butyldimethylsilyl chloride, followed by stirring at room temperature for 2 hours. To the resulting mixture was further added 500.0 mg (3.32 mmol) of tert-butyldimethylsilyl chloride, followed by overnight stirring. After addition of a saturated aqueous solution of sodium chloride, the resulting mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate. After the solvent was evaporated, the residue was dissolved in 5 ml of dimethylformamide, and 88.6 mg (0.54 mmol) of 4-nitrophenyl isocyanate was added thereto, followed by stirring at room temperature for 40 minutes. The reaction mixture was poured into water, and sodium chloride was added thereto. The precipitated crystals were collected by filtration, washed with water, and dried, followed by purification by silica gel chromatography to give 45.6 mg (24%) of 4-(7-tert-butyldimethylsilyloxy-6-methoxy-4-quinazolinyl)-N-(4-nitrophenyl)-1-piperazinecarboxamide.

reactant | 4-(7-benzyloxy-6-methoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | 0.36 mmol, 162.0 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C25H30N4O4
reactant | hydrogen | [H][H] | H2
reactant | imidazole | 1.80 mmol, 122.5 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.72 mmol, 108.5 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | tert-butyldimethylsilyl chloride | 3.32 mmol, 500.0 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | sodium chloride | [Cl-].[Na+]
reactant | 4-nitrophenyl isocyanate | 0.54 mmol, 88.6 mg | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 4-(7-tert-butyldimethylsilyloxy-6-methoxy-4-quinazolinyl)-N-(4-nitrophenyl)-1-piperazinecarboxamide | 45.6 mg, 24% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C2C(=NC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])OC | C26H34N6O5Si
